US09079853B2
5-chloro-3-(2-(6-ethynylpyridine-2-yl)-2-oxoethyl)-3-hydroxy-1-propylindolin-2-one
To a clean biotage vial equipped with a stir bar was added 1-(6-((trimethylsilyl)ethynyl)pyridin-2-yl)ethanone (0.0255 grams, 0.12 mmol), 5-chloro-1-propylindoline-2,3-dione, (0.015 grams, 0.067 mmol). This was taken up in 0.2 mL of methanol (purchased from Fisher Scientific). Dimethylamine (2.5 μL 40% in water purchased from Fisher Scientific) was then added and the solution heated in a Biotage initiator microwave for ten minutes at 80° C. Once complete, the reaction was concentrated using a Buchi rotoevaporator and purified using a Teledyne ISCO with silica gel (hexane, ethyl acetate gradient). Yield, 40%. 1H-NMR δ 8.06 (dd, 1H), 7.89 (t, 1H), 7.69 (dd, 1H), 7.35 (d, 1H), 7.29 (dd, 1H), 6.80 (d, 1H), 6.02 (s, 1H), 3.88 (d, 1H), 3.62 (m, 3H), 3.25 (s, 1H), 1.71 (m, 2H), (0.97 (t, 3H). calculated mass for C20H17ClN2O3, 368.09. Observed, 369.0 (M+1).

reactant | 1-(6-((trimethylsilyl)ethynyl)pyridin-2-yl)ethanone | 0.12 mmol, 0.0255 grams | C[Si](C)(C)C#CC1=CC=CC(=N1)C(C)=O | C12H15NOSi
reactant | 5-chloro-1-propylindoline-2,3-dione | 0.067 mmol, 0.015 grams | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
reactant | Dimethylamine | 2.5 μL | CNC | C2H7N
solvent | methanol | 0.2 mL | CO | CH4O
product | 5-chloro-3-(2-(6-ethynylpyridine-2-yl)-2-oxoethyl)-3-hydroxy-1-propylindolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)(O)CC(=O)C1=NC(=CC=C1)C#C | C20H17ClN2O3
